US04490292
After removal of the solvent under reduced pressure, the residue was dissolved in ethylacetate, and the solution was washed with aqueous sodium hydroxide. The ethylacetate extract was acidified with dilute hydrochloric acid and the aqueous layer was neutralized with saturated aqueous sodium bicarbonate and then the resulting oily substance was extracted with ethylacetate. The extract was washed with water, dried (Na2SO4) and evaporated to give 5-chloro-3-(2-dimethylaminoethyl)-2-benzothiazolinone (74.5 g) as prisms. m.p. 62.5-65.5° C. 5-Chloro-3-(2-dimethylaminoethyl)-2-benzothiazolinone (74.5 g) was added to a mixture of water (110 ml), ethanol (350 ml) and potassium hydroide (75.0 g). The solution was refluxed with stirring for two hours. After removal of the solvent under reduced pressure, the residual oil was dissolved in water, then the aqueous solution was washed with ether. The aqueous layer was washed and neutralized with 2N-acetic acid with weak stirring. The resulting light yellow precipitates were collected on a filter, washed with water and air-dried to give 4-chloro-2-(2 -dimethylaminoethylamino)-thiophenol (52.9 g) as prisms. m.p. 126-130° C.

reactant | 5-Chloro-3-(2-dimethylaminoethyl)-2-benzothiazolinone | 74.5 g | ClC=1C=CC2=C(N(C(S2)=O)CCN(C)C)C1 | C11H13ClN2OS
reactant | water | 110 ml | O | H2O
reactant | potassium | 75.0 g | [K] | K
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 4-chloro-2-(2 -dimethylaminoethylamino)-thiophenol | 52.9 g | ClC1=CC(=C(C=C1)S)NCCN(C)C | C10H15ClN2S
